US08710039B2
To the solution of (S)-benzyl 5-(benzylamino)-4-(6-(dimethylamino)naphthalene-2-sulfonamido)-5-oxopentylcarbamate (23 mg, 0.039 mmol) in methanol (5 ml) of was added Pd/C (10%) 5 mg. The reaction mixture was stirred under H2 balloon for 8 h at rt. After filtration the filtrate was evaporated in vacuo and the residue was triturated with ether repeatedly to provide (S)-5-amino-N-benzyl-2-(6-(dimethylamino)naphthalene-2-sulfonamido)pentanamide as colorless powder.

reactant | (S)-benzyl 5-(benzylamino)-4-(6-(dimethylamino)naphthalene-2-sulfonamido)-5-oxopentylcarbamate | 0.039 mmol, 23 mg | C(C1=CC=CC=C1)NC([C@H](CCCNC(OCC1=CC=CC=C1)=O)NS(=O)(=O)C1=CC2=CC=C(C=C2C=C1)N(C)C)=O | C32H36N4O5S
solvent | methanol | 5 ml | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | (S)-5-amino-N-benzyl-2-(6-(dimethylamino)naphthalene-2-sulfonamido)pentanamide | NCCC[C@@H](C(=O)NCC1=CC=CC=C1)NS(=O)(=O)C1=CC2=CC=C(C=C2C=C1)N(C)C | C24H30N4O3S
